US07022694B2
Step b. 3-(Trifluoroacetyl)-2,3,4,5-tetrahydro-1H-3-benzazepin-6-ol
6-Methoxy-3-(trifluoroacetyl)-2,3,4,5-tetrahydro-1H-3-benzazepine (11.5 g, 42.0 mmol) was dissolved in CH2Cl2 (200 mL) and cooled to 0° C. under nitrogen. Boron tribromide (10.0 mL, 0.105 mol) was added via syringe, and the solution was stirred at room temperature for 16 hours. Saturated ammonium chloride was added slowly with stirring over 2 hours. Additional CH2Cl2 was added and the solution was partitioned between CH2Cl2 and water. The resulting mixture was concentrated and repartitioned between ethyl acetate and H2O. The organic layer was concentrated to give a white solid. Crystallization from EtOAc/hexane gave 9.95 g (91%) of the title compound as a white crystalline solid: mp 183–186° C.; 1H NMR (400 MHz, DMSO-d6) δ 6.93 (dt, J=2, 8 Hz, 1 H), 6.71 (dd, J=4, 8 Hz, 1 H), 6.61 (t, J=6 Hz, 1 H), 3.68–3.60 (m, 4 H), 3.00–2.88 (m, 4 H); IR (diffuse reflectance) 3311, 1671, 1466, 1375, 1337, 1313, 1277, 1217, 1199, 1175, 1160, 1147, 949, 785, 739 cm31 1; MS (EI) m/z 259 (M+); Anal. Calcd for C12H12F3N O2: C, 55.60; H, 4.67; N, 5.40; F, 21.99. Found: C, 55.24; H, 4.75; N, 5.36.

reactant | 6-Methoxy-3-(trifluoroacetyl)-2,3,4,5-tetrahydro-1H-3-benzazepine | 42.0 mmol, 11.5 g | COC1=CC=CC=2CCN(CCC21)C(C(F)(F)F)=O | C13H14F3NO2
reactant | Boron tribromide | 0.105 mol, 10.0 mL | B(Br)(Br)Br | BBr3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 3-(Trifluoroacetyl)-2,3,4,5-tetrahydro-1H-3-benzazepin-6-ol | 9.95 g, 91% | FC(C(=O)N1CCC2=C(CC1)C=CC=C2O)(F)F | C12H12F3NO2
